US07365042B2
4-Trifluoromethyl-pyridine-3-sulfonyl chloride (0.45 g) was dissolved in dioxane (3 ml), and pro-pargylamine (0.63 ml) was added to the mixture and allowed to stand at ambient temperature overnight. The reaction was diluted with 0.5% HCl and 37% HCl was added drop-wise until the mixture became acidic. This was extracted three times with-ethyl acetate. The ethyl acetate portions were combined, washed with saturated sodium bicarbonate and dried with magnesium sulfate. The drying agent was filtered away and the solvent evaporated to give 0.13 g of crude 4-tri-fluoromethyl-pyridine-3-sulfonic acid prop-2-ynylamide, which was chromatographed an silica gel using ethyl acetate and methylene chloride to yield 0.08 g of purified 4-Trifluoromethyl-pyridine-3-sulfonic acid prop-2-ynylamide. LC/ms analysis with RT=1.36 min yielded a purity of 98% m+/m− of 264.8/262.9. Melting-point of the purified compound tested as 97-98° C.

reactant | 4-Trifluoromethyl-pyridine-3-sulfonyl chloride | 0.45 g | FC(C1=C(C=NC=C1)S(=O)(=O)Cl)(F)F | C6H3ClF3NO2S
reactant | pro-pargylamine | 0.63 ml | C(C#C)N | C3H5N
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | HCl | Cl | ClH
product | 4-tri-fluoromethyl-pyridine-3-sulfonic acid prop-2-ynylamide | 0.13 g | C(C#C)NS(=O)(=O)C=1C=NC=CC1C(F)(F)F | C9H7F3N2O2S
